Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Metastatic Renal Cell Cancer
 
Major Surgical or Invasive Procedure:
Central Line placmeent and removal

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of T2 renal cell
carcinoma, s/p left nephrectomy on ___, who was recently
found to have pulmonary metastases.

In ___, he noted left back pain, which he thought was
activity-related after working out.  A CT scan showed a 7 cm 
left
kidney mass. Additional imaging showed no evidence of metastatic
disease at the time and a nephrectomy was done on ___ which
revealed clear cell renal cell carcinoma.  A follow-up CT scan
done in ___ showed right-sided pulmonary nodules, the largest 
of
which was 1 cm in size.  Repeat CT scan down ___ revealed 5
masses in the right lung, the largest of which was > 3 cm in
size. A PET scan done ___ showed these pulmonary masses as
well as a mass in the right tonsillar tissue measuring 1.8 cm in
size with an SVU of 6.2 and nonspecific uptake in the left
parotid.  He was seen by ENT on ___, who recommended
observation and follow-up in 1 month. A CT-guided biopsy of the
right lung mass was obtained on ___ and showed metastatic
renal cell carcinoma. He passed all screenign tests and is here 
to begin cycle 1 week 1 of HD Il-2. He feels excellent and ROS 
negative. 
 
Past Medical History:
alcohol abuse, in AA
anxiety and depression
 
Social History:
___
Family History:
He reports a mother with pancreatic cancer.  His father had
diabetes and hypertension.  He has 1 brother and 1 sister who 
are
healthy.

 
Physical Exam:
GEN: Well appearing gentleman in no acute distress. 
Ht: 67 inches             Wt: 168.3 lbs
VS: ___   O2 sat 99%RA
HEENT: clear, atraumatic, anicteric.
CV: RRR without MGR
RESP: CTA, no wheezes or rhonchi
ABD: Soft, nontender BS positive
M/S: ROM intact
Lymph: No lympadenopathy in the bilateral axillary, 
supraclavicular, ingunal, cervical nodes. 
Neuro: No focal deficit on exam
 
Pertinent Results:
___ 11:55AM   GLUCOSE-93 UREA N-12 CREAT-1.1 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-31 ANION GAP-9
___ 11:55AM   estGFR-Using this
___ 11:55AM   ALT(SGPT)-13 AST(SGOT)-16 CK(CPK)-147 TOT 
BILI-0.3
___ 11:55AM   ALBUMIN-4.1 CALCIUM-9.3 PHOSPHATE-3.4 
MAGNESIUM-1.8
___ 11:55AM   WBC-6.4 RBC-4.06* HGB-12.6* HCT-37.8* MCV-93 
MCH-31.0 MCHC-33.3 RDW-12.8
___ 11:55AM   PLT COUNT-206
___ 11:55AM   ___ PTT-29.7 ___
___ 04:00AM BLOOD WBC-4.3 RBC-4.14* Hgb-12.5* Hct-36.8* 
MCV-89 MCH-30.3 MCHC-34.1 RDW-12.7 Plt Ct-98*
___ 04:00AM BLOOD Plt Ct-98*
___ 04:00AM BLOOD Glucose-119* UreaN-15 Creat-1.2 Na-137 
K-4.5 Cl-106 HCO3-19* AnGap-17
___ 04:00AM BLOOD ALT-50* AST-44* CK(CPK)-40* TotBili-1.7*
___ 04:00AM BLOOD Albumin-2.8* Calcium-7.7* Phos-2.7 
Mg-1.5*
___ 04:03AM BLOOD WBC-7.6# RBC-3.88* Hgb-12.0* Hct-34.2* 
MCV-88 MCH-30.9 MCHC-35.0 RDW-12.7 Plt Ct-91*
___ 04:03AM BLOOD Glucose-104* UreaN-16 Creat-1.2 Na-135 
K-4.3 Cl-104 HCO3-24 AnGap-11
___ 12:00PM BLOOD CK(CPK)-38*
___ 04:03AM BLOOD ALT-61* AST-46* CK(CPK)-47 TotBili-1.6*
___ 04:03AM BLOOD Albumin-2.5* Calcium-7.9* Phos-2.6* 
Mg-1.9
 
Brief Hospital Course:
Mr. ___ was admitted for HD IL-2 cycle 1 week 1.
Upon arrival to ___, informed consent was obtained for HD 
IL-2. He then underwent central line placement with chest X-ray 
confirmation of placement. 
He received HD IL-2, 45.7 Million Units IV Q8H. He recieved 
total of ___ doses this week. His course was complicated by 
chills, rigors, fever, diarrhea, and pruritus. Of all, chills 
and rigors were difficult to control given he refused all 
controlled medications such as lorazepam and demerol due to his 
past medical history of ETOH ause and being in AA. He also had 
thrombocytopenia of PLT 98k. On day 5,  with increased fatigue, 
malaise, rigors after each dose, he refused fruther doses and 
this was agreed by our team as well. 
His central line was removed on day 6 and was discharged to home 
in stable condition on ___. 
 
Medications on Admission:
fluoxetin 40 mg 2 tabs a day
 
Discharge Medications:
1. diphenhydramine HCl 25 mg Capsule Sig: ___ Capsules PO Q6H 
(every 6 hours) as needed for pruritis.
Disp:*30 Capsule(s)* Refills:*0*
2. cephalexin 500 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 5 days.
Disp:*10 Capsule(s)* Refills:*0*
3. oral wound care products     Gel in Packet Sig: Fifteen (15) 
ML Mucous membrane TID (3 times a day) as needed for mucositis.
Disp:*500 ML(s)* Refills:*0*
4. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours.
Disp:*60 Tablet, Rapid Dissolve(s)* Refills:*2*
5. furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day for 
5 days.
Disp:*5 Tablet(s)* Refills:*0*
6. camphor-menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for pruritus.
Disp:*1 bottle* Refills:*3*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic Renal Cell CA

 
Discharge Condition:
Mental Status: Clear and coherent.

 
Discharge Instructions:
Please call ___, RN for any issues after discharge.
___
 
Followup Instructions:
___